US06455515B2
Preparation of 2-hydroxy-3-nitrobenzhydrazide
40 ml of hydrazine hydrate were added to a solution of 30 g (0.15 mol) of methyl 3-nitrosalicylate in 200 ml of anhydrous tetrahydrofuran (THF). After dilution with THF, the resulting suspension was stirrable; it was refluxed for approximately 18 hours. After cooling, the batch was poured onto ice. The aqueous solution was rendered neutral by adding NaOH solution. The crystals which precipitated were filtered off and washed with water. After drying, 27 g (90%) of the title compound were obtained.

reactant | hydrazine hydrate | 40 ml | O.NN
reactant | methyl 3-nitrosalicylate | 0.15 mol, 30 g | [N+](=O)([O-])C1=C(C(C(=O)OC)=CC=C1)O | C8H7NO5
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-hydroxy-3-nitrobenzhydrazide | 27 g, 90% | OC1=C(C(=O)NN)C=CC=C1[N+](=O)[O-] | C7H7N3O4
